US08076329B2
To a solution of 4′-(3-piperidinopropoxy)biphenyl-1-carboxylic acid (0.9 g) in dichloromethane (10 mL) containing one drop of N,N-dimethylformamide is added oxalyl chloride (285 μL). The suspension is stirred for one hour at room temperature, then chloroform (20 mL) and a drop of N,N-dimethylformamide are added. and the mixture is stirred for three hours at room temperature. Piperidine (1.6 mL) is then added and the mixture is stirred for an half hour at room temperature, washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The product thus obtained is purified by chromatography over silica gel with a gradient dichloromethane/methanol from 100/0 to 90/10. Fraction containing the expected product are pooled, concentrated under reduced pressure to give 620 mg of 1-(3-{[4′-(piperidinocarbonyl)biphenyl-4-yl]oxy}propyl)-piperidine as white crystals melting at 122° C.

reactant | 4′-(3-piperidinopropoxy)biphenyl-1-carboxylic acid | 0.9 g | N1(CCCCC1)CCCOC1=CC=C(C=C1)C1(CC=CC=C1)C(=O)O | C21H27NO3
reactant | oxalyl chloride | 285 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
reactant | Piperidine | 1.6 mL | N1CCCCC1 | C5H11N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(3-{[4′-(piperidinocarbonyl)biphenyl-4-yl]oxy}propyl)-piperidine | 620 mg | N1(CCCCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCN1CCCCC1 | C26H34N2O2
